US04401676
To a stirred solution of 1-trimethylsilyl-N-benzylidene-3-aminoprop-1-yne (7.609 g.; 34.4 mmol) in 106 ml. of tetrahydrofuran maintained at -78° under N2 was added dropwise 19.5 ml. of 1.63 N n-butyl lithium. To the stirred deep red solution was then added dropwise 11.43 g. (35.4 mmol) of 3,4-diphenylmethylenedioxybenzyl chloride in 35 ml. of tetrahydrofuran. After an additional 30 minutes at -78° water (25 ml.) was added dropwise, the mixture was warmed to 20°, 10% aqueous NH4Cl solution was added and the layers were separated. The aqueous layer was washed twice with benzene, the combined organic phases were washed twice with cold 10% aqueous NH4Cl, once with saturated NaCl solution, dried over Na2SO4 and concentrated to dryness to give 3-(3,4-diphenylmethylenedioxybenzyl)-1-trimethylsilyl-N-benzylidene-3-aminoprop-1-yne as a viscous orange oil (18,86 g).

reactant | 1-trimethylsilyl-N-benzylidene-3-aminoprop-1-yne | 34.4 mmol, 7.609 g | C[Si](C#CCN=CC1=CC=CC=C1)(C)C | C13H17NSi
reactant | n-butyl lithium | 1.63 N | C(CCC)[Li]
reactant | 3,4-diphenylmethylenedioxybenzyl chloride | 35.4 mmol | C1(=CC=CC=C1)C=1C2=C(C(OCO2)Cl)C=CC1C1=CC=CC=C1 | C20H15ClO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3,4-diphenylmethylenedioxybenzyl)-1-trimethylsilyl-N-benzylidene-3-aminoprop-1-yne | 18,86 g | C1(=CC=CC=C1)C=1C2=C(C(C(C#C[Si](C)(C)C)N=CC3=CC=CC=C3)OCO2)C=CC1C1=CC=CC=C1 | C33H31NO2Si
